US08071629B2
0.200 g of tert-butyl [2-(3,5-dichloropyridin-2-yl)cyclopropyl]{[3-(difluoromethyl)-1-methyl-1H-pyrazol-4-yl]carbonyl}carbamate (0.00039 mol) are dissolved in 5 ml of dichloromethane. 0.50 ml of trifluoroacetic acid are added to the reaction mixture which is left stirring at room temperature overnight. The reaction mixture is quenched with 15 ml of an aqueous solution of saturated sodium bicarbonate. After separation, the aqueous phase is extracted with dichloromethane (10 ml). The combined organic phases are dried over magnesium sulfate, filtered, concentrated to dryness and purified on silica to yield to 120 mg of N-[2-(3,5-dichloropyridin-2-yl)cyclopropyl]-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxamide (76%).

reactant | tert-butyl [2-(3,5-dichloropyridin-2-yl)cyclopropyl]{[3-(difluoromethyl)-1-methyl-1H-pyrazol-4-yl]carbonyl}carbamate | 0.00039 mol, 0.200 g | ClC=1C(=NC=C(C1)Cl)C1C(C1)N(C(OC(C)(C)C)=O)C(=O)C=1C(=NN(C1)C)C(F)F | C19H20Cl2F2N4O3
reactant | trifluoroacetic acid | 0.50 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[2-(3,5-dichloropyridin-2-yl)cyclopropyl]-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxamide | 120 mg, 76% | ClC=1C(=NC=C(C1)Cl)C1C(C1)NC(=O)C=1C(=NN(C1)C)C(F)F | C14H12Cl2F2N4O
